US04118558
(A) 2-Phenyl-6-(phenylmethylene)cyclohexanone
A solution of 60.0 g of 2-phenylcyclohexanone in 400 ml of ethanol is stirred and treated with 160 ml of 15% aqueous sodium hydroxide and 53.0 g of benzaldehyde. The resulting solution is stirred at room temperature and the product begins to separate from solution as an oil after 30 minutes. The mixture is seeded with crystalline material and allowed to stand overnight at room temperature. The resulting slurry is poured onto 1.5 liters of ice-water, allowed to stand at room temperature for 2 hours, filtered and washed with cold water. This material weights 81.2 g, melting point 75°-78° C. After crystallization from 200 ml of isopropanol, the product weighs 62.1 g; melting point 85°-87° C. A small sample, recrystallized from ethanol, melts at 86°-88° C.

reactant | 2-phenylcyclohexanone | 60.0 g | C1(=CC=CC=C1)C1C(CCCC1)=O | C12H14O
reactant | sodium hydroxide | 160 ml | [OH-].[Na+]
reactant | benzaldehyde | 53.0 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-Phenyl-6-(phenylmethylene)cyclohexanone | C1(=CC=CC=C1)C1C(C(CCC1)=CC1=CC=CC=C1)=O | C19H18O
